US05073629
A mixture of 2,2-diphenyl-4-pentenenitrile (2.33 g), 3.0M ethylmagnesium bromide in ether (10 ml), and benzene (30 ml) was heated at reflux for 3 hours, with stirring. After cooling to room temperature, the crude intermediate was stirred with 1N hydrochloric acid for 3 hours. The hydrolysate was partitioned between water and ethyl acetate (3×). The combined extracts were washed with water and brine, dried (MgSO4), and rotary evaporated to give a crude material which was flash-chromatographed over silica gel. Elution with hexane/ethyl acetate (5:1) yielded 1.0 g of 4,4-diphenyl-6-hepten-3-one, as a colorless oil.

reactant | 2,2-diphenyl-4-pentenenitrile | 2.33 g | C1(=CC=CC=C1)C(C#N)(CC=C)C1=CC=CC=C1 | C17H15N
reactant | ethylmagnesium bromide | 3.0M | C(C)[Mg]Br
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ether | 10 ml | CCOCC | C4H10O
product | 4,4-diphenyl-6-hepten-3-one | 1.0 g | C1(=CC=CC=C1)C(C(CC)=O)(CC=C)C1=CC=CC=C1 | C19H20O
